US08703782B2
Preparation of 7-{1-[4-(7-Methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester
Di-tert-butyl dicarbonate (2.77 g, 10.8 mmol) and triethyl amine (2.18 g, 21.6 mmol) were added to a solution of 3-[3-(4,7-diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (5.0 g, 10.8 mmol) in THF (50 mL) under argon at r.t. The reaction mixture was stirred for 16 h and concentrated at reduced pressure. The residue was partitioned between a saturated aqueous NH4Cl solution and CH2Cl2. The layers were partitioned and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with a saturated aqueous NaHCO3 solution and brine, dried over anhydrous Na2SO4 and concentrated at reduced pressure to afford the title compound as an orange solid. 1H-NMR (400 MHz, DMSO-d6): 11.88 (s, 1H), 11.15 (s, 1H), 8.00 (d, 1H), 7.68-7.65 (m, 2H), 7.46 (t, 1H), 7.09 (t, 1H), 7.06 (s, 1H), 6.73 (d, 1H), 6.41 (t, 1H), 6.01 (d, 1H), 3.48-3.16 (m, 6H), 2.38 (s, 3H), 1.40 (s, 9H), 0.87-0.54 (m, 4H). LCMS: [M+1]+=563.9, Rt(1)=3.51 min, Rt(1)=2.36 min., Rt(2)=1.37 min.

reactant | Di-tert-butyl dicarbonate | 10.8 mmol, 2.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 21.6 mmol, 2.18 g | C(C)N(CC)CC | C6H15N
reactant | 3-[3-(4,7-diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 10.8 mmol, 5.0 g | C1CC12NCCN(C2)C=2N=C(C1=CC=CC=C1C2)C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O | C28H25N5O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-{1-[4-(7-Methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CC2)CN(CC1)C=1N=C(C2=CC=CC=C2C1)C=1C(NC(C1C1=CNC2=C(C=CC=C12)C)=O)=O | C33H33N5O4
